US06956138B2
Preparation Example for CF3CF2COO(CH2)2O(CH2)2OCOCF2CF3 by an Esterification Reaction
HO(CH2)2O(CH2)2OH (40 g) was put into a flask and stirred while maintaining the internal temperature at 30° C. While maintaining the internal temperature of the flask at 30° C., nitrogen and CF3CF2COF (388 g) were supplied over a period of 1.5 hours. After completion of the reaction, while supplying nitrogen gas, stirring was continued at an internal temperature of 30° C. for 2 hours, and then the internal temperature of the flask was brought to at most 15° C., whereupon 5% NaHCO3 (300 ml) was added.

reactant | CF3CF2COF | 388 g | C(F)(F)(F)C(F)(F)C(=O)F | C3F6O
reactant | NaHCO3 | 300 ml | C(=O)(O)[O-].[Na+]
reactant | HO(CH2)2O(CH2)2OH | 40 g | OCCOCCO | C4H10O3
product | CF3CF2COO(CH2)2O(CH2)2OCOCF2CF3 | C(F)(F)(F)C(F)(F)C(=O)OCCOCCOC(=O)C(F)(F)C(F)(F)F | C10H8F10O5
